US05663164
1.5 ml of 2-methoxy-propene were added all at once to a suspension of 610 mg of pyridine-4-aldoxime in 10 ml of methylene chloride and the mixture was stirred for 18 hours at 60° C. under reduced pressure. The mixture was cooled and evaporated to dryness under reduced pressure to obtain 950 mg of 4-[(1-methoxy-1-methyl-ethoxyimino)-methyl]-pyridine.

reactant | 2-methoxy-propene | 1.5 ml | COC(=C)C | C4H8O
reactant | pyridine-4-aldoxime | 610 mg | N1=CC=C(C=C1)C=NO | C6H6N2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[(1-methoxy-1-methyl-ethoxyimino)-methyl]-pyridine | 950 mg | COC(C)(ON=CC1=CC=NC=C1)C | C10H14N2O2
